US07514451B2
Process B: (3S,4R)-3-Bromomethyl-1-tert-butoxycarbonyl-4-hydroxypyrrolidine (561 mg) was dissolved in toluene (20 mL). To this solution, 1,8-diazabicyclo[5.4.0]undec-7-ene (0.50 mL) was added and perfluoro-1-octanesulfonylfluoride (0.93 mL) was then added dropwise while the mixture was chilled in an ice water bath. After stirred at 2° C. for 1 hour, the reaction mixture was poured on a silica gel pad and was eluted with ethyl acetate (100 mL). The eluate was concentrated under reduced pressure and the resulting residue was purified by silica gel column chromatography (eluant: hexane: ethyl acetate=2:1) to give (3S,4S)-3-bromomethyl-1-tert-butoxycarbonyl-4-fluoropyrrolidine as a yellow oil (447 mg).

reactant | (3S,4R)-3-Bromomethyl-1-tert-butoxycarbonyl-4-hydroxypyrrolidine | 561 mg | BrC[C@H]1CN(C[C@@H]1O)C(=O)OC(C)(C)C | C10H18BrNO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.50 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | perfluoro-1-octanesulfonylfluoride | 0.93 mL | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C8F18O2S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (3S,4S)-3-bromomethyl-1-tert-butoxycarbonyl-4-fluoropyrrolidine | 447 mg | BrC[C@H]1CN(C[C@H]1F)C(=O)OC(C)(C)C | C10H17BrFNO2
